US07786108B2
Combine 3,3-dimethylglutaric anhydride (1.00 g, 7.03 mmol) and sodium methoxide (2.5 mL, 14.1 mmol, 30 wt % in methanol) in methanol (20 mL) and heat at reflux for 3 h. Cool the reaction to room temperature and pour into ice water (100 mL). Add diethyl ether (25 mL) and adjust the pH of the mixture to pH=2 with 2 N HCl (10 mL) and separate the layers. Extract the aqueous layer with diethyl ether (25 mL) and combine the organic layers, dry over sodium sulfate, filter and remove the solvent under reduced pressure to afford 3,3-dimethylpentanedioic acid monomethyl ester as a colorless oil (0.827 g, 68%): 1H NMR (CDCl3, 300 MHz) δ 1.14 (s, 6H), 2.46 (s, 2H), 2.48 (s, 2H), 3.67 (s, 3H), 10.9 (br s, 1H); APCI MS (Negative mode) m/z 173 [C8H14O4−H]−.

reactant | 3,3-dimethylglutaric anhydride | 7.03 mmol, 1.00 g | CC1(CC(=O)OC(C1)=O)C | C7H10O3
reactant | sodium methoxide | 14.1 mmol, 2.5 mL | C[O-].[Na+]
reactant | diethyl ether | 25 mL | C(C)OCC | C4H10O
reactant | HCl | 2 N, 10 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 3,3-dimethylpentanedioic acid monomethyl ester | 0.827 g, 68% | COC(CC(CC(=O)O)(C)C)=O | C8H14O4
